US07939524B2
b) 2-Amino-5-nitrobenzenesulfonamide
2-Amino-5-nitrobenzenesulfonic acid (200.00 g, 0.917 mol) was suspended in warm sulfolane (250 mL) and the suspension was heated to 80° C. Phosphorous oxychloride (126 mL, 1.375 mol) was added and resulting mixture was heated to 110-120° C. and stirred for 4 h. The resulting solution was cooled to 60° C. and added dropwise into concentrated aqueous ammonium hydroxide solution (800 mL, 11.9 mol) at <10° C. The flask was rinsed with warm sulfolane (50 mL) and the wash was added into the above reaction mixture. The resulting suspension was stirred at 25° C. for 1 h, heated to 95° C. and stirred for 1 hour. The mixture was cooled to 80° C. and the pH was adjusted to 6-8 with 3.0 M aqueous hydrochloric acid solution (˜600 mL) and allowed to cool to 25° C. The dark green suspension was filtered, and the wet filter cake was washed with water (300 mL) and dried at 60° C. overnight to give the crude product (140 g) as a green-yellow solid. The crude product was dissolved in 0.5 M aqueous sodium hydroxide solution (1.4 L, 0.7 mol). Charcoal (14 g) was added and the mixture was heated to reflux and stirred for 15 min. The mixture was filtered through Celite and washed with 0.5 M aqueous sodium hydroxide solution (100 mL). The pH of the filtrate was adjusted to 6-8 with concentrated aqueous hydrochloric acid solution (˜60 mL) and the yellow suspension was allowed to cool to 25° C. The mixture was filtered and the wet filter cake was washed with water (200 mL) and dried at 60° C. overnight to afford the desired product, 2-amino-5-nitrobenzenesulfonamide (130 g, 0.599 mol, 65%) as a bright yellow powder.

reactant | 2-Amino-5-nitrobenzenesulfonic acid | 0.917 mol, 200.00 g | NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C6H6N2O5S
reactant | Phosphorous oxychloride | 1.375 mol, 126 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | 11.9 mol, 800 mL | [OH-].[NH4+]
reactant | sodium hydroxide | 0.7 mol, 0.5 M, 1.4 L | [OH-].[Na+]
reactant | Charcoal | 14 g | C | CH4
solvent | sulfolane | 250 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-amino-5-nitrobenzenesulfonamide | 0.599 mol, 130 g, 65% | NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C6H7N3O4S
